US05212195
To a solution of methyl 3-[2-(n-butyl)-1-(2"-cyanobiphenyl-4'-ylmethyl)pyrrol-4-yl]propionate (AG) (5.8 g) (prepared, e.g., as described in Preparation 23), in methanol (100 ml) was added 10% sodium hydroxide solution (35 ml), and the resulting solution was gently heated under reflux for 4 hours. After cooling to 0° C., the solution was acidified to pH 6 with hydrochloric acid solution (6N), and the product thoroughly extracted into methylene chloride. The combined methylene chloride extracts were washed with cold water, brine, and then dried with magnesium sulfate. Removal of the solvent under vacuum gave 3-[(2-(n-butyl)-1-(2"-cyanobiphenyl-4'-ylmethyl)pyrrol-4-yl]propionic acid (5.51 g), a compound of Formula (AH), as a slightly pinkish gum.

reactant | methyl 3-[2-(n-butyl)-1-(2"-cyanobiphenyl-4'-ylmethyl)pyrrol-4-yl]propionate | 5.8 g | C(CCC)C=1N(C=C(C1)CCC(=O)OC)CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C26H28N2O2
reactant | sodium hydroxide | 35 ml | [OH-].[Na+]
reactant | hydrochloric acid | 6N | Cl | ClH
reactant | methanol | 100 ml | CO | CH4O
product | (2-(n-butyl)-1-(2"-cyanobiphenyl-4'-ylmethyl)pyrrol-4-yl]propionic acid | 5.51 g | C(CCC)C=1N(C=C(C1)C(C(=O)O)C)CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C25H26N2O2
